US04816466
In 2 mol of acetic acid is dissolved 0.3 g of N-[N-[(S)-5-(4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2yl)glycine tert-butyl ester, and 1 ml of hydrogen bromide-acetic acid solution is added to the solution, followed by standing at room temperature for 30 minutes. 50 ml of ethyl ether is added to the reaction solution, followed by shaking, and the supernatant layer is removed by decantation. The precipitate is collected and dried under reduced pressure to give 0.3 g of N-[N-[(S)-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine.dihydrobromide as a colorless powder.

reactant | acetic acid | 2 mol | C(C)(=O)O | C2H4O2
reactant | N-[N-[(S)-5-(4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2yl)glycine tert-butyl ester | 0.3 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@@H](CCCCC1CCNCC1)C(=O)OCC)C)=O)=O | C31H49N3O5
reactant | hydrogen bromide acetic acid | 1 ml | Br.C(C)(=O)O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | N-[N-[(S)-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine.dihydrobromide | 0.3 g | Br.Br.C(C)OC(=O)[C@H](CCCCC1CCNCC1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C27H41N3O5.2BrH/c1-3-35-27(34)24(11-7-4-8-20-12-14-28-15-13-20)29-19(2)26(33)30(18-25(31)32)23-16-21-9-5-6-10-22(21)17-23;;/h5-6,9-10,19-20,23-24,28-29H,3-4,7-8,11-18H2,1-2H3,(H,31,32);2*1H/t19-,24-;;/m0../s1
